US08030322B2
Preparation 42: tert-butyl 6-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-1′-carboxylate (Prep42)
The mixture of 6-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine] (Prep 41, 200 mg, 0.97 mmol), (Boc)2O (340 mg, 1.56 mmol), DMAP (10 mg), and Et3N (300 mg, 3 mmol) in DCM (10 ml) was stirred overnight at room temperature.

reactant | 6-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine] | 0.97 mmol, 200 mg | ClC1=CC=C2CCC3(CNCC3)C2=C1 | C12H14ClN
reactant | (Boc)2O | 1.56 mmol, 340 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 3 mmol, 300 mg | CCN(CC)CC | C6H15N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 6-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-1′-carboxylate | ClC1=CC=C2CCC3(CN(CC3)C(=O)OC(C)(C)C)C2=C1 | C17H22ClNO2
